US06166030
2-Methyl-1,2,3,4-tetrahydroisoquinolin-7-ylamine hydrochloride (34.66 g) in 95% ethanol (600 ml) was warmed to 65° C. to dissolve most of the solids, and the mixture was then allowed to cool with stirring. The next day, the fine suspension of solids was treated with 2-thiophenecarboximidothioic acid, ethyl ester, hydrochloride (41 g) and stirred at 23° C. All solids had dissolved by 2 h, and by 4 h new solids had precipitated. The mixture was treated with concentrated hydrochloric acid (2 ml). The mixture was cooled to 0° C. and stirred for 30 minutes. The solids were filtered off, washed with ethanol (2×50 ml), and air dried to provide N-(2-methyl-1,2,3,4-tetrahydroisoquinolin-7-yl)-2-thiophenecarboximidamide dihydrochloride, m.p. 142-146° C.; MS m /z 272 [M+H]+.

reactant | 2-Methyl-1,2,3,4-tetrahydroisoquinolin-7-ylamine hydrochloride | 34.66 g | Cl.CN1CC2=CC(=CC=C2CC1)N
reactant | 2-thiophenecarboximidothioic acid, ethyl ester, hydrochloride | 41 g | Cl.S1C(=CC=C1)C(=N)SCC
solvent | ethanol | 600 ml | C(C)O | C2H6O
product | N-(2-methyl-1,2,3,4-tetrahydroisoquinolin-7-yl)-2-thiophenecarboximidamide dihydrochloride | Cl.Cl.CN1CC2=CC(=CC=C2CC1)NC(=N)C=1SC=CC1 | InChI=1S/C15H17N3S.2ClH/c1-18-7-6-11-4-5-13(9-12(11)10-18)17-15(16)14-3-2-8-19-14;;/h2-5,8-9H,6-7,10H2,1H3,(H2,16,17);2*1H
